US07560467B2
(b) (3-Fluoro-phenyl)-(5-nitro-1H-indazol-3-yl)-amine
2-Fluoro-N-(3-fluoro-phenyl)-5-nitro-benzamide (1.1 μg, 4 mmol) was suspended in EtOH (25 mL) and the mixture heated to ˜60° C. To the resulting solution was added hydrazine monohydrate (1.06 mL, 20 mmol). The mixture was heated at reflux for 5 minutes and a yellow solid was precipitated out. The mixture was allowed to cool to room temperature then the solid was filtered off. The solid was dissolved in phosphorous oxychloride (40 mL) and the mixture heated at 90° C. for 1.5 hr then allowed to cool to room temperature and stirred for overnight. The reaction mixture was concentrated and partitioned between EtOAc and saturated sodium bicarbonate. The organic phase was dried over MgSO4 and concentrated to afford the title compound as a red solid (0.7 g, 64%). MS (ESI) m/z=273 [M+H]+. 1H NMR (400 MHz, d6-DMSO) δ 12.84 (s, 1H), 9.69 (s, 1H), 9.22 (d, J=2.0 Hz, 1H), 8.19 (dd, J=9.2 and 2.0 Hz, 1H), 7.77 (m, 1H), 7.54 (d, J=9.2 Hz, 1H), 7.37 (m, 2H), 6.69 (m, 1H)

reactant | 2-Fluoro-N-(3-fluoro-phenyl)-5-nitro-benzamide | 4 mmol, 1.1 μg | FC1=C(C(=O)NC2=CC(=CC=C2)F)C=C(C=C1)[N+](=O)[O-] | C13H8F2N2O3
reactant | hydrazine monohydrate | 20 mmol, 1.06 mL | O.NN
solvent | EtOH | 25 mL | CCO | C2H6O
product | (3-Fluoro-phenyl)-(5-nitro-1H-indazol-3-yl)-amine | 0.7 g, 64% | FC=1C=C(C=CC1)NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C13H9FN4O2
